US04282166
An apparatus similar to that in Example 2 was charged with 205 g tributyltin chloride and 50 ml toluene. During 35 min. there was added 110 ml Reagent T with the temperature controlled at 30° C. maximum by ice bath cooling. An hour after complete addition the toluene was distilled off. The residue, including a considerable amount of solid, was distilled under vacuum to give 179.5 g crude tributyltin hydride boiling 102°-110° C./5 mm. This was redistilled to give 158.9 g boiling 104°-106° C./5 mm and 8.0 g boiling 106°-116° C./5 mm, both showing only tributyltin hydride in the NMR spectrum, and a 12.5 g residue having the NMR spectrum of tributyltin chloride, for a 91.1% of theoretical yield of tributyltin hydride based on tributyltin chloride charged.

reactant | tributyltin chloride | 205 g | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | tributyltin hydride | 179.5 g | C(CCC)[SnH](CCCC)CCCC | InChI=1S/3C4H9.Sn.H/c3*1-3-4-2;;/h3*1,3-4H2,2H3;;
